* C:\Users\Mark\Documents\MEGAsync\CEFET\tcc\dnar\spice\L_C_behaviors.asc
C1 N001 0 15e-4
L1 N002 0 100
V1 V1 0 SINE(0 10 1 0.001 0.001 0)
R§10 V2 N001 1k
R2 V2 N002 1k
V2 V2 0 PULSE(0 10 0 0.001 0.001 20 40 0)
C2 node1 0 5e-5
L2 0 node1 100
I1 0 I1 1
.tran 60
* w = 2 pi f
* f = ( 2 pi sqrt LC )^-1
* w0 = LC ^-1
.ic i(L2)=1e-5
.backanno
.end
