* C:\Users\Mark\Documents\MEGAsync\CEFET\tcc\dnar\spice\lead_lag.asc
R1 N001 N002 1
L1 N002 0 1
I1 0 N001 SINE(6m 5m 2 0.01)
V1 N003 0 SINE(6 2 2 0.01)
R2 N004 N003 1
C1 0 N004 1
.tran 10
.backanno
.end
