* C:\Users\Mark\Documents\MEGAsync\CEFET\tcc\dnar\spice\rlc_ex.asc
R1 N003 N001 1
L1 N001 N002 1
C1 N002 0 1
V1 N003 0 PULSE(0 10 0.1 0.001 0.001 30 60)
.tran 100
.backanno
.end
