* C:\Users\Mark\Documents\MEGAsync\CEFET\tcc\dnar\spice\source_conversions.asc
L1 N002 0 1
R1 N001 0 0.5
I1 0 N001 PWL file=square_voltage_source_t40.csv
L2 N005 0 5e-3
R4 N004 N005 100
R2 N003 0 500
I2 0 N003 PWL file=square_l1il_i1p_conv_2_voltage_r500_t40.csv
R3 N006 N007 100
V2 N006 0 PWL file=square_voltage_source_t40.csv
C2 N003 0 50e-4
C1 N007 0 5e-3
L3 N009 0 50e-4
R5 N008 N009 500
V3 N008 0 PWL file=square_voltage_source_t40.csv
L4 N017 0 10
R6 N016 0 0.5
V4 N016 0 PWL file=square_voltage_source_t40.csv
R_critical N013 N014 2
L_ N014 N015 1
C_ N015 0 1
R_ud N018 N019 0.3
V6 N010 0 PWL file=square_voltage_source_t40.csv
L_1 N019 N020 0.5
C_1 N020 0 2
R_od N010 N011 2.5
L_2 N011 N012 1
C_2 N012 0 1
V5 test 0 PULSE(0 10 10 0.001 0.001 20 50)
V8 N018 0 PWL file=square_voltage_source_t40.csv
V7 N013 0 PWL file=square_voltage_source_t40.csv
I3 0 N004 PWL file=square_voltage_source_t40.csv
L5 N022 0 10
R7 N021 0 1
I4 0 N021 PWL file=square_voltage_source_t40.csv
R8 N022 N021 1
R9 N002 N001 0.5
R10 N017 N016 0.5
.tran 40
* PULSE(0 0.02 10 0.001 0.001 20 50)
* PULSE(0 5000 10 0.001 0.001 20 50)
* PWL file=square_voltage_source_t40.csv
.backanno
.end
